*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-03[uF]/250[V]
* Murata P/N :GCM21A5C2E102GX01
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E102GX01 Port1 Port2
C01 Port1 N01 1.00e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.53e-10
R03 N02 N03 1.29e-02
C04 N03 N04 2.29e-08
R04 N03 N04 1.43e+02
L05 N04 N05 8.75e-11
R05 N04 N05 1.15e+00
L06 N05 N06 8.93e-11
R06 N05 N06 2.97e-02
C07 N06 N07 9.09e-09
L07 N06 N07 1.04e-11
R07 N06 N07 2.90e-01
C08 N07 N08 1.28e-09
L08 N07 N08 2.84e-11
R08 N07 N08 6.75e-01
C09 N08 N09 3.18e-09
L09 N08 N09 2.94e-12
R09 N08 N09 9.54e-02
C10 N09 Port2 9.82e-13
L10 N09 Port2 2.83e-10
R10 N09 Port2 2.55e+02
.ENDS GCM21A5C2E102GX01
